Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
flu vaccine
 
Attending: ___.
 
Chief Complaint:
asymptomatic enlarging infrarenal abdominal aortic aneurysm.

 
Major Surgical or Invasive Procedure:
Endovascular repair of abdominal aortic aneurysm 
 
History of Present Illness:
 ___ female with an asymptomatic 5.1 cm infrarenal 
abdominal aortic aneurysm for elective endovascular repair. 
 
Past Medical History:
PMH: AAA, CAD, DM, HTN, neuropathy, OSA, arthritis 

SH: ___
Family History:
No contributory family history.
 
Physical Exam:
GEN: NAD, A&Ox3
CV: RRR
PULM: Breathing comfortably on RA
ABD: soft, non-tender, non-distended
Extremity: Groin puncture sites clean and intact without 
bleeding. No hematoma noted. Palpable DP and Doppler signal in 
___ bilaterally. 

Full ROM without discomfort in left hand. Does note pain with 
palpation to anatomical snuff box. 
 
Pertinent Results:
___ 05:51AM BLOOD WBC-11.5* RBC-3.01* Hgb-9.1* Hct-29.5* 
MCV-98 MCH-30.2 MCHC-30.8* RDW-12.8 RDWSD-45.5 Plt ___
___ 05:51AM BLOOD Glucose-168* UreaN-12 Creat-0.9 Na-140 
K-4.0 Cl-106 HCO3-21* AnGap-13
___ 04:48AM BLOOD Calcium-8.7 Phos-3.2 Mg-1.3*
 
Brief Hospital Course:
___ female with an asymptomatic, 5.1 cm infrarenal 
abdominal aortic aneurysm presents for elective repair. 

She underwent endovascular repair of the aneurysm on  ___.  
On POD 1 she complained of severe back pain. CTA was reassuring 
for no evidence of endoleak and the pain was fell to be 
musculoskeletal in origin.  She also noted pain in her left hand 
in the anatomical snuff box.   X -ray suggested a fracture at 
the base of the distal phalanx.  Hand surgery was consulted.  
During that evaluation she denied any pain related to the area.  
No related swelling or deformity was noted. Repeat X-ray was 
ordered to better delineate her anatomy but the patient refuses 
saying that she has no pain in that area.

By post op day 2, she was tolerating a regular diet, voiding qs 
with baseline vital signs and ambulatory ad lib. 

Follow up has been arranged with Dr. ___.   She is also 
instructed to contact her PCP if her left hand and/or back pain 
persists. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Pravastatin 40 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Lisinopril 20 mg PO DAILY  
3.  MetFORMIN (Glucophage) 1000 mg PO BID  
4.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Aortic Aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after 
placement of a stent graft in your aorta to strengthen the part 
of the artery that was weakened by an aneurysm.  To perform this 
procedure, small punctures were made in the arteries on both 
sides of your groin.  You tolerated the procedure well and are 
now ready to be discharged from the hospital.   Please follow 
the recommendations below to ensure a speedy and uneventful 
recovery.

Division of Vascular and Endovascular Surgery
Endovascular Abdominal Aortic Aneurysm Repair Discharge 
Instructions

PLEASE NOTE: After endovascular aortic repair (EVAR), it is very 
important to have regular appointments (every ___ months) for 
the rest of your life.  These appointments will include a CT 
(“CAT”) scan and/or ultrasound of your graft.  If you miss an 
appointment, please call to reschedule. 

WHAT TO EXPECT:
•Bruising, tenderness, and a sensation of fullness at the groin 
puncture sites (or incisions) is normal and will go away in 
one-two weeks

CARE OF THE GROIN PUNCTURE SITES:
•It is normal to have mild swelling, a small bruise, or small 
amounts of drainage at the groin puncture sites.  In two weeks, 
you may feel a small, painless, pea sized knot at the puncture 
sites.  This too is normal.  Male patients may notice swelling 
in the scrotum.  The swelling will get better over one-two 
weeks.
•Look at the area daily to see if there are any changes.  Be 
sure to report signs of infection.  These include: increasing 
redness; worsening pain; new or increasing drainage, or drainage 
that is white, yellow, or green; or fever of 101.5 or more.  (If 
you have taken aspirin, Tylenol, or other fever reducing 
medicine, wait at least ___ hours after taking it before you 
check your temperature in order to get an accurate reading.)

FOR SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision)
•If you have sudden, severe bleeding or swelling at either of 
the groin puncture sites: 
-Lie down, keep leg straight and apply (or have someone apply) 
firm pressure to area for ___ minutes with a gauze pad or 
clean cloth. 
-Once bleeding has stopped, call your surgeon to report what 
happened.   
-If bleeding does not stop, call ___ for transfer to closest 
Emergency Room. 
•You may shower 48 hours after surgery.  Let the soapy water 
run over the puncture sites, then rinse and pat dry.  Do not rub 
these sites and do not apply cream, lotion, ointment or powder. 
•Wear loose-fitting pants and clothing as this will be less 
irritating to the groin puncture sites. 

MEDICATIONS
•Take aspirin daily.  Aspirin helps prevent blood clots that 
could form in your repaired artery. 
•It is very important that you never stop taking aspirin or 
other blood thinning medicines-even for a short while- unless 
the surgeon who repaired your aneurysm tells you it is okay to 
stop.   Do not stop taking them, even if another doctor or nurse 
tells you to, without getting an okay from the surgeon who first 
prescribed them. 
•You will be given prescriptions for any new medication started 
during your hospital stay.
•Before you go home, your nurse ___ give you information about 
new medication and will review all the medications you should 
take at home.  Be sure to ask any questions you may have.  If 
something you normally take or may take is not on the list you 
receive from the nurse, please ask if it is okay to take it. 

PAIN MANAGEMENT
•Most patients do not have much pain following this procedure.  
 Your puncture sites may be a little sore.  This will improve 
daily. If it is getting worse, please let us know.
•You will be given instructions about taking pain medicine if 
you need it.

ACTIVITY
•You must limit activity to protect the puncture sites in your 
groin.  For ONE WEEK:
-Do not drive
-Do not swim, take a tub bath or go in a Jacuzzi or hot tub
-Do not lift, push, pull or carry anything heavier than five 
pounds
-Do not do any exercise or activity that causes you to hold your 
breath or bear down with your abdominal muscles.
-Do not resume sexual activity
•Discuss with your surgeon when you may return to other regular 
activities, including work.  If needed, we will give you a 
letter for your workplace. 
•It is normal to feel weak and tired.  This can last six-eight 
weeks, but should get better day by day.   You may want to have 
help around the house during this time.
___ push yourself too hard during your recovery.  Rest when 
you feel tired.  Gradually return to normal activities over the 
next month.
•We encourage you to walk regularly. Walking, especially 
outdoors in good weather is the best exercise for circulation.  
Walk short distances at first, even in the house, then do a 
little more each day.
•It is okay to climb stairs.  You may need to climb them slowly 
and pause after every few steps. 

DIET
•It is normal to have a decreased appetite.  Your appetite will 
return over time.
•Follow a well balance, heart-healthy diet, with moderate 
restriction of salt and fat. 
•Eat small, frequent meals with nutritious food options (high 
fiber, lean meats, fruits, and vegetables) to maintain your 
strength and to help with wound healing.
BOWEL AND BLADDER FUNCTION
•You should be able to pass urine without difficulty.  Call you 
doctor if you have any problems urinating, such as burning, 
pain, bleeding, going too often, or having trouble urinating or 
starting the flow of urine.   Call if you have a decrease in the 
amount of urine. 
•You may experience some constipation after surgery because of 
pain medicine and changes in activity.  Increasing fluids and 
fiber in your diet and staying active can help.  To relief 
constipation, you may talk a mild laxative.   Please take to 
your pharmacist for advice about what to take. 

     

 
Followup Instructions:
___